US09387200B2
h) {[3-(4-Chloro-phenyl)-4-hydroxy-7-(4-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 3-(4-Chloro-phenyl)-4-hydroxy-7-(4-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 470.0 (M+1).

reactant | 3-(4-Chloro-phenyl)-4-hydroxy-7-(4-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)OC)SN=C2C2=CC=C(C=C2)Cl)O | C22H17ClN2O4S
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[3-(4-Chloro-phenyl)-4-hydroxy-7-(4-methoxy-phenyl)-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | ClC1=CC=C(C=C1)C1=NSC2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C2=CC=C(C=C2)OC | C22H16ClN3O5S
